2120-11-16 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pericardial drain continues to put out ~25cc/hr of sanguine fluid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-16**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 110 (108 - 116) bpm
   BP: 115/75(86) {94/56(64) - 131/94(101)} mmHg
   RR: 25 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
                  Total In:
                                                                    365 mL
                                                                    180 mL
   PO:
                                                                     60 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    305 mL
   Blood products:
   Total out:
                                                                  1,169 mL
                                                                    277 mL
   Urine:
                                                                    250 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
                                                                     79 mL
                                                                    127 mL
   Balance:
                                                                   -804 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GEN: NAD, mildly diaphoretic, AAOx3
   CV: tachycardic, regular rhythm, no appreciable rub
   RESP: largely CTA with faint end-expiratory wheezes and diminished
   breath sounds at bases R > L
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally, L-sided edema mildly greater than R
   Labs / Radiology
   405 K/uL
   9.8 g/dL
   100 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.2 mEq/L
   18 mg/dL
   104 mEq/L
   137 mEq/L
   32.6 %
   13.2 K/uL
        [image002.jpg]
                            [**2120-11-16**]  03:00 AM
   WBC
   13.2
   Hct
   32.6
   Plt
   405
   Cr
   1.1
   TropT
   <0.01
   Glucose
   100
   Other labs: CK / CKMB / Troponin-T:58//<0.01, ALT / AST:49/46, Alk Phos
   / T Bili:99/0.4, Differential-Neuts:83.6 %, Lymph:11.0 %, Mono:4.7 %,
   Eos:0.4 %, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 11126**] is a 53 y/o M with stage four metastatic renal cell
   carcinoma (since [**5-23**]) with multiple mets to lymph nodes and to bone,
   presenting with dyspnea related to cardiac tamponade.
   # Cardiac tamponade:  Now s/p pericardiocentesis of approx 1L bloody
   fluid, concerning for malignant etiology.  On review of OSH CT report
   from [**11-1**], he was noted to have a pericardial effusion, however had
   baseline dyspnea per patient history.  Over the past two weeks, the
   patient has had worsening effusion.  Given history of RCC and bloody
   fluid, there is concern that this is related to patient's underlying
   maligancy.  Other etiologies include infection (TB) or viral etiology,
   though less likely.  Will plan to send for cytology.  [**Month (only) 51**] need for
   patient to get pericardial window if this is malignant in etiology.
   - Monitor pericardial drain output
   - NSAIDs if needed
   - CT surgery consult if malignant for pericardial window placement
   - f/u cytology
   # CORONARIES:  Patient with no known h/o CAD, however patient with mild
   regional left ventricular systolic dysfunction with mild basal to mid
   inferior wall hypokinesis and mid inferolateral wall hypokinesis on
   [**2118**] echo.   Patient has not had cardiac cath given other
   co-morbidities and lack of symptoms.  Will reeval with echocardiogram
   in AM.
   - f/u repeat TTE
   # PUMP:  Patient with likely lymphangitic involvement of lungs.
   Patient with PCWP of 19, RVEDP 22, PA pressures 41/17, Mean RA
   pressures of 8.  Likely hypovolemic now given post-centesis
   tachycardia, hypotension.
   - Fluid resuscitation with bolus NS.
   - Monitor fluid status in AM post re-equilibration
   - f/u repeat TTE
   # RHYTHM:  Sinus tachycardia.  Unclear etiology or chronicity.  Last
   TSH in [**9-25**] WNL, had history of elevated TSH over year ago, unclear if
   related to chemotherapy.
   - Resend TSH in AM
   - Monitor in AM
   #  Asymmetrical BLE edema:  Patient with a history of assymetrical LE
   edema L > R; has been documented in past.  No tenderness to palpation
   or acute concern for underlying DVT, though patient at higher risk
   given malgnancy.
   - Monitor
   # Metastatic Renal Cell Carcinoma:  Patient with shoulder and L iliac
   mets, s/p XRT to hip and RFA to shoulder.  Patient on new experimental
   chemotherapeutic [**Doctor Last Name **], MDX-1106, which has unclear benefits in
   patient's condition.  Patient is s/p multiple rounds of different
   agents, and it is unclear if any can have pericardial effusion as
   secondary effect.
   - Heme/Onc consult in AM
   - Review recent chemo medications.
   # Leukocytosis:  WBC 16.5.  Unclear if this is related to infectious
   process.  No other signs of infection.
   - Trend in AM
   FEN:  Regular diet.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with Pneumoboots
   -Pain management with NSAIDs if necessary
   -Bowel regimen with Colace/Senna
   CODE: Full Code
   .
   COMM:  [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-11-15**] 10:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-17 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-16**]:
   - Output pericardial drain - unable to flush the line. Interventional
   fellow rec: try to flush, getting stat echo in AM. Stopped around noon
   - Follow up ECG - no change
   - Pathology is not done
   - CT surgery needs to be consulted depending on results.
   - Heme-onc rec: supportive care, observation
   - LE edema documentation - noted Left nephrectomy, multiple LNA in left
   leg.
   - 3000cc bolus - heart rate at 110's.
   - going for Echo in AM.
   - The left atrium is mildly dilated. Left ventricular wall thickness,
   cavity size and regional/global systolic function are normal (LVEF
   >55%). The right ventricular cavity is mildly dilated with mild global
   free wall hypokinesis. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve appears structurally normal with
   trivial mitral regurgitation. There is no mitral valve prolapse. The
   pulmonary artery systolic pressure could not be quantified. There is a
   small (1cm) near circumferential pericardial effusion with relative
   sparing around the inferior and inferolateral left ventricle. The
   effusion is echo dense, consistent with blood, inflammation, tumor or
   other cellular elements. Stranding is visualized within the pericardial
   space c/w organization.
   Compared with the prior study (images reviewed) of [**2120-11-15**], the
   effusion is smaller and now appears more echodense/organized.
   Biventricular cavity size has increased and right ventricular free wall
   hypokinesis is now present..
   CLINICAL IMPLICATIONS:
   Based on [**2118**] AHA endocarditis prophylaxis recommendations, the echo
   findings indicate prophylaxis is NOT recommended. Clinical decisions
   regarding the need for prophylaxis should be based on clinical and
   echocardiographic data.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-17**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 112 (110 - 123) bpm
   BP: 113/74(82) {95/49(60) - 120/89(94)} mmHg
   RR: 28 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 81.4 kg
   Height: 68 Inch
                  Total In:
                                                                  4,000 mL
                                                                    120 mL
   PO:
                                                                  1,500 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,500 mL
   Blood products:
   Total out:
                                                                    977 mL
                                                                    125 mL
   Urine:
                                                                    850 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
                                                                    127 mL
   Balance:
                                                                  3,024 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination:
   Seen sitting straight up in bed, ?tripodding breathin in the 20
   conversationally dyspneic
   HEENT:  JVD to 4cm at 90 degrees
   CV: loud and clear s1s2 tachycardic, regular unable to assess for mgr
   Pulm: decreased bs at the bases R>L
   Abd: NTND BS+ x 4
   Ext:  2+ pedal pulses, p boots on, no pitting noted
   Labs / Radiology
   377 K/uL
   10.5 g/dL
   103 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.2 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   33.8 %
   14.6 K/uL
        [image002.jpg]
                            [**2120-11-16**]  03:00 AM
                            [**2120-11-16**]  12:14 PM
                             [**2120-11-17**]  05:09 AM
   WBC
   13.2
   14.2
   14.6
   Hct
   32.6
   30.6
   33.8
   Plt
   [**Telephone/Fax (3) 11153**]
   Cr
   1.1
   1.0
   TropT
   <0.01
   Glucose
   100
   103
   Other labs: CK / CKMB / Troponin-T:58//<0.01, ALT / AST:49/46, Alk Phos
   / T Bili:99/0.4, Differential-Neuts:83.6 %, Lymph:11.0 %, Mono:4.7 %,
   Eos:0.4 %, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 11126**] is a 53 y/o M with stage four metastatic renal cell
   carcinoma (since [**5-23**]) with multiple mets to lymph nodes and to bone,
   presenting with dyspnea related to cardiac tamponade.
   # Cardiac tamponade:  Now s/p pericardiocentesis of approx 1L bloody
   fluid, concerning for malignant etiology.  On review of OSH CT report
   from [**11-1**], he was noted to have a pericardial effusion, however had
   baseline dyspnea per patient history.  Over the past two weeks, the
   patient has had worsening effusion.  Given history of RCC and bloody
   fluid, there is concern that this is related to patient's underlying
   maligancy.  Other etiologies include infection (TB) or viral etiology,
   though less likely.  Will plan to send for cytology.  [**Month (only) 51**] need for
   patient to get pericardial window if this is malignant in etiology.
   - Pericardial drain output has stopped, not responding to flushes.
   - Echo this AM to determine if empty vs locculated vs needing
   repositioning.
   - NSAIDs if needed
   - CT surgery consult if malignant for pericardial window placement
   -  f/u cytology
   # CORONARIES:  Patient with no known h/o CAD, however patient with mild
   regional left ventricular systolic dysfunction with mild basal to mid
   inferior wall hypokinesis and mid inferolateral wall hypokinesis on
   [**2118**] echo.   Patient has not had cardiac cath given other
   co-morbidities and lack of symptoms.  Will reeval with echocardiogram
   in AM.
   - f/u repeat TTE
   # PUMP:  Patient with lymphangitic involvement of lungs.  CT Scan
   showed pulmonary edema and pulmonary effusion R>L.  Patient had PCWP of
   19, RVEDP 22, PA pressures 41/17, Mean RA pressures of 8 on first
   echo.  PA pressure could not be calculated yesterday.  Hypotension is
   hypovolemic vs constrictive([**2-19**] mediastinal node pressing decreasing
   R->L cardiac output) vs reaccumulating pericardial effusion
   - Fluid resuscitation with bolus NS as needed
   - Monitor fluid status in AM post re-equilibration
   - f/u repeat TTE
   # RHYTHM:  Sinus tachycardia.  Unclear etiology or chronicity.
   Hypovolemia vs effusion vs constrictive  Last TSH in [**9-25**] WNL, had
   history of elevated TSH over year ago, unclear if related to
   chemotherapy.
   - TSH
 6.5 currently
   - Monitor on tele
   #  Asymmetrical BLE edema:  Patient with a history of asymmetrical LE
   edema L > R; has been documented in past.  No tenderness to palpation
   or acute concern for underlying DVT, though patient at higher risk
   given malignancy.
   - Monitor
   # Metastatic Renal Cell Carcinoma:  Patient with shoulder and L iliac
   mets, s/p XRT to hip and RFA to shoulder.  Patient on new experimental
   chemotherapeutic [**Doctor Last Name **], MDX-1106, which has unclear benefits in
   patient's condition.  Patient is s/p multiple rounds of different
   agents, and it is unclear if any can have pericardial effusion as
   secondary effect.
   - Emailed Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 2048**] and [**Name5 (PTitle) 4252**] them to come in and discuss
   long-term prognosis with pt.
   - Heme/Onc consult in AM
   - Review recent chemo medications.
   # Leukocytosis:  WBC 14.6, down from admission unclear if this is
   related to infectious process.  No other signs of infection.
   -          Trend in AM
   -          Levo, flagyl started today for treatment of a presumed post
   obstructive PNA given multiple intraparenchymal nodules and productive
   cough
   FEN:  Regular diet.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with Pneumoboots
   -Pain management with NSAIDs if necessary
   -Bowel regimen with Colace/Senna
   CODE: Full Code
   .
   COMM:  [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-11-15**] 10:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-18 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-17**]:
   - Right pleural effusion drained roughly 1100 serous fluid.  Sent for
   cytology and culture c/w exudative effusion (fluid LDH of 290 with
   serum of 281)
   - Post procedure XR with no evidence of pneumothorax
   - Bedside echo revealed mild increase in effusion with no tamponade
   physiology able to flush, no return
   - received 1L NS [**2-19**] poor UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-17**] 12:00 PM
   Metronidazole - [**2120-11-18**] 04:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-18**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 113 (113 - 133) bpm
   BP: 100/75(80) {69/48(52) - 120/95(98)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 81.4 kg
   Height: 68 Inch
             Total In:
                                                                  2,301 mL
                                                                    100 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,341 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                    125 mL
   Urine:
                                                                    475 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,826 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   377 K/uL
   10.5 g/dL
   103 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.2 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   33.8 %
   14.6 K/uL
        [image002.jpg]
                            [**2120-11-16**]  03:00 AM
                            [**2120-11-16**]  12:14 PM
                             [**2120-11-17**]  05:09 AM
   WBC
   13.2
   14.2
   14.6
   Hct
   32.6
   30.6
   33.8
   Plt
   [**Telephone/Fax (3) 11153**]
   Cr
   1.1
   1.0
   TropT
   <0.01
   Glucose
   100
   103
   Other labs: CK / CKMB / Troponin-T:58//<0.01, ALT / AST:49/46, Alk Phos
   / T Bili:99/0.4, Differential-Neuts:83.6 %, Lymph:11.0 %, Mono:4.7 %,
   Eos:0.4 %, LDH:281 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 11126**] is a 53 y/o M with stage four metastatic renal cell
   carcinoma (since [**5-23**]) with multiple mets to lymph nodes and to bone,
   presenting with dyspnea related to cardiac tamponade.
   .
   # Cardiac tamponade:  Now s/p pericardiocentesis of approx 1L bloody
   fluid, concerning for malignant etiology.  On review of OSH CT report
   from [**11-1**], he was noted to have a pericardial effusion, however had
   baseline dyspnea per patient history.  Over the past two weeks, the
   patient has had worsening effusion.  Given history of RCC and bloody
   fluid, there is concern that this is related to patient's underlying
   maligancy.  Other etiologies include infection (TB) or viral etiology,
   though less likely.  Will plan to send for cytology.  [**Month (only) 51**] need for
   patient to get pericardial window if this is malignant in etiology.
   - Concern on Dr. [**Last Name (STitle) **]
s echo that there had been a small increase in
   the effusion, will follow-up attending read of this AM
s echo, suspect
   that fluid is reaccumulating despite drain in place.
   - Pericardial drain output has stopped, not responding to flushes and
   patient positioning, bag has fallen off and will be pulled.
   - Anticipate increased accumulation and if so will consult thoracis for
   pericardial window
   - NSAIDs if needed
   - CT surgery consult if malignant for pericardial window placement
   -  f/u cytology, micro
   .
   #Pleural effusion
 clearly Exudative in origin on thoracentesis, most
   likely [**2-19**] malignancy
   -respiratory distress improved symptomatically with drainage of R. Lung
   -If thoracis does window, would appreciate VATS for symptomatic
   relief/quality of life
   -f/u cytology, cx etc.
   -continue abx for now
   .
   # CORONARIES:  Patient with no known h/o CAD, however patient with mild
   regional left ventricular systolic dysfunction with mild basal to mid
   inferior wall hypokinesis and mid inferolateral wall hypokinesis on
   [**2118**] echo.   Patient has not had cardiac cath given other
   co-morbidities and lack of symptoms.  Will reeval with echocardiogram
   in AM.
   - f/u repeat TTE
   .
   # PUMP:  Patient with lymphangitic involvement of lungs.  CT Scan
   showed pulmonary edema and pulmonary effusion R>L.  Patient had PCWP of
   19, RVEDP 22, PA pressures 41/17, Mean RA pressures of 8 on first
   echo.  PA pressure could not be calculated yesterday.  Hypotension is
   hypovolemic vs constrictive([**2-19**] mediastinal node pressing decreasing
   R->L cardiac output) vs reaccumulating pericardial effusion
   - Fluid resuscitation with bolus NS as needed
   - Monitor fluid status in AM post re-equilibration
   - f/u repeat TTE
   - palliative treatment per heme/onc
   .
   # RHYTHM:  Sinus tachycardia.  Unclear etiology or chronicity.
   Hypovolemia vs effusion vs constrictive  Last TSH in [**9-25**] WNL, had
   history of elevated TSH over year ago, unclear if related to
   chemotherapy.
   - TSH
 6.5 currently
   - Monitor on tele
   .
   #  Asymmetrical BLE edema:  Patient with a history of asymmetrical LE
   edema L > R; has been documented in past.  No tenderness to palpation
   or acute concern for underlying DVT, though patient at higher risk
   given malignancy.
   - Monitor
   .
   .
   # Metastatic Renal Cell Carcinoma:  Patient with shoulder and L iliac
   mets, s/p XRT to hip and RFA to shoulder.  Patient on new experimental
   chemotherapeutic [**Doctor Last Name **], MDX-1106, which has unclear benefits in
   patient's condition.  Patient is s/p multiple rounds of different
   agents, and it is unclear if any can have pericardial effusion as
   secondary effect.
   - Emailed Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 2048**] and [**Name5 (PTitle) 4252**] them to come in and discuss
   long-term prognosis with pt.
   - Heme/Onc consult in AM
   - Review recent chemo medications.
   .
   # Leukocytosis:  WBC 14.6, down from admission unclear if this is
   related to infectious process.  No other signs of infection.
   -          Trend in AM
   -          Levo, flagyl started today for treatment of a presumed post
   obstructive PNA given multiple intraparenchymal nodules and productive
   cough
   .
   FEN:  Regular diet.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Pneumoboots
   -Pain management with NSAIDs if necessary
   -Bowel regimen with Colace/Senna
   .
   CODE: Full Code
   .
   COMM:  [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-11-15**] 10:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-19 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pericardial drain pulled
   - TTE showed recurrence of effusion (moderate to large in size)
   - thoracic surgery planning to take patient to OR for pericardial
   window.
   - per cytology, report should be available end of Wednesday
   - per Heme/Onc, patient has had good response to salvage therapy in the
   past and last treatment was several months ago.  Should be able to
   restart treatment as outpatient.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-17**] 12:00 PM
   Metronidazole - [**2120-11-18**] 04:41 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2120-11-18**] 12:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-19**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 114 (104 - 122) bpm
   BP: 104/76(82) {90/50(54) - 114/82(88)} mmHg
   RR: 24 (23 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86 kg (admission): 81.4 kg
   Height: 68 Inch
                  Total In:
                                                                  3,050 mL
                  PO:
                                                                  1,950 mL
                  TF:
   IVF:
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    175 mL
   Urine:
                                                                  1,025 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,025 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Seen sitting straight up in bed, ?tripodding breathin in the 20
   conversationally dyspneic
   HEENT:  JVD to 4cm at 90 degrees
   CV: loud and clear s1s2 tachycardic, regular unable to assess for mgr
   Pulm: good breath sounds on the bases R>L, wheezing noted.
   Abd: NTND BS+ x 4
   Ext:  2+ pedal pulses, p boots on, no pitting noted
   Labs / Radiology
   353 K/uL
   9.9 g/dL
   124 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   10 mg/dL
   104 mEq/L
   135 mEq/L
   30.6 %
   17.5 K/uL
        [image002.jpg]
                            [**2120-11-16**]  03:00 AM
                            [**2120-11-16**]  12:14 PM
                             [**2120-11-17**]  05:09 AM
                             [**2120-11-18**]  10:05 AM
                             [**2120-11-19**]  03:24 AM
   WBC
   13.2
   14.2
   14.6
   16.5
   17.5
   Hct
   32.6
   30.6
   33.8
   35.3
   30.6
   Plt
   [**Telephone/Fax (3) 11184**]84
   353
   Cr
   1.1
   1.0
   0.9
   0.9
   TropT
   <0.01
   Glucose
   100
   103
   131
   124
   Other labs: PT / PTT / INR:15.4/33.1/1.3, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:49/46, Alk Phos / T Bili:99/0.4,
   Differential-Neuts:83.6 %, Lymph:11.0 %, Mono:4.7 %, Eos:0.4 %,
   Albumin:2.5 g/dL, LDH:281 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.1
   mg/dL
   TTE [**11-18**]: Left ventricular wall thicknesses and cavity size are normal.
   Right ventricular chamber size and free wall motion are normal. There
   is a moderate to large sized relatively echodense circumferential
   pericardial effusion consistent with blood, inflammation or other
   cellular elements and evidence of stranding laterally. There is mild
   right ventricular diastolic collapse, consistent with impaired
   fillling/tamponade physiology. There is significant, accentuated
   respiratory variation in mitral/tricuspid valve inflows, consistent
   with impaired ventricular filling.
   Compared with the prior study (images reviewed) of [**2120-11-17**], the
   effusion is slightly larger/echodense and tamponade physiology is more
   strongly suggested.
   Assessment and Plan
   Mr. [**Known lastname 11126**] is a 53 y/o M with stage four metastatic renal cell
   carcinoma (since [**5-23**]) with multiple mets to lymph nodes and to bone,
   presenting with dyspnea related to cardiac tamponade.
   .
   # Cardiac tamponade:  Now s/p pericardiocentesis of approx 1L bloody
   fluid, concerning for malignant etiology.  On review of OSH CT report
   from [**11-1**], he was noted to have a pericardial effusion, however had
   baseline dyspnea per patient history.  Over the past two weeks, the
   patient has had worsening effusion.  Given history of RCC and bloody
   fluid, there is concern that this is related to patient's underlying
   maligancy.  Other etiologies include infection (TB) or viral etiology,
   though less likely.   Initially had good response to pericardial drain
   and pleural tap on Right side, but repeat echo showed reaccumulation of
   the fluid.  Pericardial drain output has stopped, not responding to
   flushes and patient positioning, bag has fallen off and will be pulled.
   - f/u on cytology ETA [**11-20**] and micro.
   - pericardial window today
   - NSAIDs if needed for pain
   .
   # pleural effusion
 exudative in origin on thoracentesis, most likely
   [**2-19**] malignancy.  Respiratory distress improved symptomatically with
   drainage of R. Lung.
   - going for VATS with pericardial window and left pleural effusion
   drainage as palliative measures.
   -f/u cytology, cx
   -on Benzonatate, Guaifenesin-Dextromethorphan, Ipratropium Bromide Neb
   for supportive care.
   .
   # Leukocytosis:  WBC 17.5, gradual increase over last several days.  No
   clear signs of infection.
   - Trend in AM
   - Levo, flagyl started today for treatment of a presumed post
   obstructive PNA given multiple intraparenchymal nodules and productive
   cough
   - CIS
   .
   # CORONARIES:  Patient with no known h/o CAD, however patient with mild
   regional left ventricular systolic dysfunction with mild basal to mid
   inferior wall hypokinesis and mid inferolateral wall hypokinesis on
   [**2118**] echo.   Patient has not had cardiac cath given other
   co-morbidities and lack of symptoms.  Not active currently.
   .
   # PUMP:  Patient with lymphangitic involvement of lungs.  CT Scan
   showed pulmonary edema and pulmonary effusion R>L.  Patient had PCWP of
   19, RVEDP 22, PA pressures 41/17, Mean RA pressures of 8 on first
   echo.  PA pressure could not be calculated yesterday.  Hypotension is
   hypovolemic vs constrictive([**2-19**] mediastinal node pressing decreasing
   R->L cardiac output) vs reaccumulating pericardial effusion
   - Fluid resuscitation with bolus NS as needed
 received 2 L the day
   prior to VATS.
   - Monitor fluid status in AM post re-equilibration
   - palliative treatment per heme/onc
   .
   # RHYTHM:  Sinus tachycardia.  Unclear etiology or chronicity.
   Hypovolemia vs effusion vs constrictive  Last TSH in [**9-25**] WNL, had
   history of elevated TSH over year ago, unclear if related to
   chemotherapy.
   - TSH
 6.5 currently
   - Monitor on tele
   .
   #  Asymmetrical BLE edema:  Patient with a history of asymmetrical LE
   edema L > R; has been documented in past.  No tenderness to palpation
   or acute concern for underlying DVT, though patient at higher risk
   given malignancy.
   - Monitor
   .
   # Metastatic Renal Cell Carcinoma:  Patient with shoulder and L iliac
   mets, s/p XRT to hip and RFA to shoulder.  Patient on new experimental
   chemotherapeutic [**Doctor Last Name **], MDX-1106, which has unclear benefits in
   patient's condition.  Patient is s/p multiple rounds of different
   agents, and it is unclear if any can have pericardial effusion as
   secondary effect.  Emailed Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 2048**] and [**Name5 (PTitle) 4252**] them to
   come in and discuss long-term prognosis with pt.
   .
   FEN:  Regular diet.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Pneumoboots
   -Pain management with NSAIDs if necessary
   -Bowel regimen with Colace/Senna
   .
   CODE: Full Code
   .
   COMM:  [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-11-18**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11042**].
   I would add the following remarks:
   History
   Succesful pericardial window with Dr [**First Name (STitle) **] today.
   Pt reports cough and dyspnea much improved.
   Physical Examination
   No respiratory distress.
   Decreased BS at bases.
   Medical Decision Making
   Will discuss further plans for pleural effusion drainage but concern
   that left lung may be surrounded more by solid tumor rather than fluid.
   Will discuss with ONC plans for outpt chemotherapy.
   [**Month (only) 51**] be able to leave ICU tomorrow.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2120-11-19**] 11:19 ------

2120-11-20 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2120-11-19**] 10:00 AM placed in OR
 OR RECEIVED - At [**2120-11-19**] 10:00 AM
 ULTRASOUND - At [**2120-11-19**] 11:21 AM thoracic US at bedside
 ARTERIAL LINE - STOP [**2120-11-20**] 05:15 AM placed in OR
   - s/p vats and pericardial window with chest tube placement on -20, on
   pca dilaudid.
   - presistently tachycardiac, was hypotensive to 90's (SBP), given 1 L
   of LR bolus.
   - repleted ca gluconate 2g x1 and 500 NS bolus.
   - advanced diet to full liquid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-17**] 12:00 PM
   Metronidazole - [**2120-11-18**] 04:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-20**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 117 (106 - 125) bpm
   BP: 92/69(74) {90/53(61) - 111/78(85)} mmHg
   RR: 20 (8 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86 kg (admission): 81.4 kg
   Height: 68 Inch
             Total In:
                                                                  4,098 mL
                                                                    162 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,498 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                    872 mL
                                                                    501 mL
   Urine:
                                                                    495 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  3,226 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.43/34/91/20/0
   Physical Examination
   Seen sitting straight up in bed, ?tripodding breathin in the 20
   conversationally dyspneic
   HEENT:  JVD to 4cm at 90 degrees
   CV: loud and clear s1s2 tachycardic, regular unable to assess for mgr,
   with 3-4 inch scar noted in sub-xyphoid area.
   Pulm: good breath sounds on the bases R>L, wheezing noted.
   Abd: NTND BS+ x 4
   Ext:  2+ pedal pulses, p boots on, no pitting noted
   Labs / Radiology
   365 K/uL
   10.0 g/dL
   157 mg/dL
   1.0 mg/dL
   20 mEq/L
   5.1 mEq/L
   12 mg/dL
   102 mEq/L
   132 mEq/L
   32.1 %
   14.9 K/uL
        [image002.jpg]
                            [**2120-11-16**]  03:00 AM
                            [**2120-11-16**]  12:14 PM
                             [**2120-11-17**]  05:09 AM
                             [**2120-11-18**]  10:05 AM
                             [**2120-11-19**]  03:24 AM
                             [**2120-11-19**]  10:54 AM
                             [**2120-11-20**]  04:52 AM
                             [**2120-11-20**]  05:07 AM
   WBC
   13.2
   14.2
   14.6
   16.5
   17.5
   14.9
   Hct
   32.6
   30.6
   33.8
   35.3
   30.6
   29.5
   32.1
   Plt
   [**Telephone/Fax (3) 11184**]84
   353
   365
   Cr
   1.1
   1.0
   0.9
   0.9
   1.0
   TropT
   <0.01
   TCO2
   23
   Glucose
   100
   103
   131
   124
   157
   Other labs: PT / PTT / INR:15.4/31.4/1.4, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:49/46, Alk Phos / T Bili:99/0.4,
   Differential-Neuts:83.6 %, Lymph:11.0 %, Mono:4.7 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:281 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 11126**] is a 53 y/o M with stage four metastatic renal cell
   carcinoma (since [**5-23**]) with multiple mets to lymph nodes and to bone,
   presenting with dyspnea related to cardiac tamponade.
   .
   # pleural effusion
 exudative in origin on thoracentesis, most likely
   [**2-19**] malignancy.  Respiratory distress improved symptomatically with
   drainage of R. Lung.
   -s/p VATS with pericardial window and left pleural effusion drainage as
   palliative measures.
   -f/u cxr [**11-20**]
   -f/u cytology, cx
   -on Benzonatate, Guaifenesin-Dextromethorphan, Ipratropium Bromide Neb
   for supportive care.
   -f/u with IP fellow regarding drainage.
   .
   # Cardiac tamponade:  Now s/p pericardiocentesis of approx 1L bloody
   fluid, concerning for malignant etiology.  On review of OSH CT report
   from [**11-1**], he was noted to have a pericardial effusion, however had
   baseline dyspnea per patient history.  Over the past two weeks, the
   patient has had worsening effusion.  Given history of RCC and bloody
   fluid, there is concern that this is related to patient's underlying
   maligancy.  Other etiologies include infection (TB) or viral etiology,
   though less likely.   Initially had good response to pericardial drain
   and pleural tap on Right side, but repeat echo showed reaccumulation of
   the fluid.  Pericardial drain output has stopped, not responding to
   flushes and patient positioning, bag has fallen off and will be pulled.
   - f/u on cytology ETA [**11-20**] and micro.
   - pericardial window today
   - NSAIDs if needed for pain
   .
   # Leukocytosis:  gradual decrease over last several days.  No clear
   signs of infection.
   - Trend in AM
   - Levo, flagyl started today for treatment of a presumed post
   obstructive PNA given multiple intraparenchymal nodules and productive
   cough
   - CIS
   .
   #electrolytes: monitor UOP, has hyperkalemia that is new
   - will monitor lytes
   - continue monitor UOP
   .
   #pain control: patient is able to tolerate [**Last Name (LF) 4**], [**First Name3 (LF) **] try to switch to PO
   pain med.
   - consider roxanal
   .
   # CORONARIES:  Patient with no known h/o CAD, however patient with mild
   regional left ventricular systolic dysfunction with mild basal to mid
   inferior wall hypokinesis and mid inferolateral wall hypokinesis on
   [**2118**] echo.   Patient has not had cardiac cath given other
   co-morbidities and lack of symptoms.  Not active currently.
   .
   # PUMP:  Patient with lymphangitic involvement of lungs.  CT Scan
   showed pulmonary edema and pulmonary effusion R>L.  Patient had PCWP of
   19, RVEDP 22, PA pressures 41/17, Mean RA pressures of 8 on first
   echo.  PA pressure could not be calculated yesterday.  Hypotension is
   hypovolemic vs constrictive([**2-19**] mediastinal node pressing decreasing
   R->L cardiac output) vs reaccumulating pericardial effusion
   - Fluid resuscitation with bolus NS as needed
 received 2 L the day
   prior to VATS.
   - Monitor fluid status in AM post re-equilibration
   - palliative treatment per heme/onc
   .
   # RHYTHM:  Sinus tachycardia.  Unclear etiology or chronicity.
   Hypovolemia vs effusion vs constrictive  Last TSH in [**9-25**] WNL, had
   history of elevated TSH over year ago, unclear if related to
   chemotherapy.
   - TSH
 6.5 currently
   - Monitor on tele
   .
   #  Asymmetrical BLE edema:  Patient with a history of asymmetrical LE
   edema L > R; has been documented in past.  No tenderness to palpation
   or acute concern for underlying DVT, though patient at higher risk
   given malignancy.
   - Monitor
   .
   # Metastatic Renal Cell Carcinoma:  Patient with shoulder and L iliac
   mets, s/p XRT to hip and RFA to shoulder.  Patient on new experimental
   chemotherapeutic [**Doctor Last Name **], MDX-1106, which has unclear benefits in
   patient's condition.  Patient is s/p multiple rounds of different
   agents, and it is unclear if any can have pericardial effusion as
   secondary effect.  Emailed Drs [**Last Name (STitle) **] and [**Name5 (PTitle) 2048**] and [**Name5 (PTitle) 4252**] them to
   come in and discuss long-term prognosis with pt.
   .
   FEN:  Regular diet.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with Pneumoboots
   -Pain management with NSAIDs if necessary
   -Bowel regimen with Colace/Senna
   .
   CODE: Full Code
   .
   COMM:  [**Name (NI) **]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-11-18**] 12:15 PM
   16 Gauge - [**2120-11-19**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: